US04051145
18 parts of 2-(2,2,2-trifluoro-ethyl)-4-bromo-aniline are dissolved in 490 parts by volume of glacial acetic acid. To this solution, well stirred at 15° C., is added all at once a solution of 4.9 parts of sodium nitrite in 11.9 parts of water. At the end of 3 days, the acetic acid is evaporated and the residue is taken up in 40 parts of water, the solid filtered off, washed and dried. 18 parts of 3-trifluoromethyl-5-bromo-indazole are thus obtained.

reactant | 2-(2,2,2-trifluoro-ethyl)-4-bromo-aniline | FC(CC1=C(N)C=CC(=C1)Br)(F)F | C8H7BrF3N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-trifluoromethyl-5-bromo-indazole | FC(C1=NNC2=CC=C(C=C12)Br)(F)F | C8H4BrF3N2
